US06346626B1
1.4 g 4-methoxythiophenol is added to 10 g of polyphosphoric acid preheated to about 90°. Then 2.5 g ethyl 3-(1-adamantyl)-3-oxopropionate is added slowly, and the mixture is stirred for altogether 1.5 hours at 90°. The mixture is poured onto ice/water, vigorously stirred and extracted with ethyl acetate. The combined organic layers are dried over magnesium sulfate and evaporated in vacuo. The residue is purified by chromatography on silica gel (cyclohexane/ethyl acetate 6/1). 2-(1-adamantyl)-6-methoxy-4H-thiochromen-4-one is obtained (colourless crystals; mp 140°). b) Under argon 14 ml of 1M boron tribromide solution in dichloromethane are added at room temperature to a solution of 1.12 g 2-(1-adamantyl)-6-methoxy-4H-thiochromen-4-one in dry dichloromethane. After stirring for 1 hour the mixture is poured onto ice/water and extracted with dichloromethane. The combined organic layers are washed with aqueous sodium bicarbonate solution, dried over magnesium sulfate and evaporated in vacuo. The title compound is obtained (colourless crystals; mp 257° after chromatography on silica gel using cyclohexane/ethyl acetate 4/1 as an eluant).

reactant | 4-methoxythiophenol | 1.4 g | COC1=CC=C(C=C1)S | C7H8OS
reactant | ethyl 3-(1-adamantyl)-3-oxopropionate | 2.5 g | C12(CC3CC(CC(C1)C3)C2)C(CC(=O)OCC)=O | C15H22O3
product | 2-(1-adamantyl)-6-methoxy-4H-thiochromen-4-one | C12(CC3CC(CC(C1)C3)C2)C=2SC3=CC=C(C=C3C(C2)=O)OC | C20H22O2S
